US04472381
N-t-butyloxycarbonyl-L-alanyl-L-proline (4.3 g, 15 m mole), L-proline benzyl ester hydrochloride (3.7 g, 15.3 m mole) and HOBt (2.0 g, 15 m mole) were dissolved in methylene dichloride (40 ml). WSC (2.8 ml) was added dropwise to the above mixture while cooling to -15° C. and stirring. The reaction was carried out for 3 hours at a temperature of not more than 0° C., and then overnight at room temperature. The solvent was removed by distillation under reduced pressure leaving a residue. The residue was dissolved in ethyl acetate, and washed with 1N hydrochloric acid, water, 5% sodium bicarbonate and water, in order. The mixture was dried over anhydrous sodium sulfate. The solvent thus obtained solution was distilled under reduced pressure leaving a residue. The residue was crystallized with a mixture of ethyl acetate and n-hexan to give a crystal of N-t-butyloxycarbonyl-L-alanyl-L-prolyl-L-proline benzyl ester (6.3 g, 88.7%) having melting point of 143° to 145° C. and specific rotatory power of [α]D25 =-131.0° (C=1, chloroform).

reactant | N-t-butyloxycarbonyl-L-alanyl-L-proline | 4.3 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C13H22N2O5
reactant | L-proline benzyl ester hydrochloride | 3.7 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | HOBt | 2.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 2.8 ml | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene dichloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-t-butyloxycarbonyl-L-alanyl-L-prolyl-L-proline benzyl ester | 6.3 g, 88.7% | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)C)=O)=O)=O | C25H35N3O6
